US08048899B2
A solution of 1.74 g (12 mmol) of 3-methoxy-2,2-dimethyl-propionic acid methyl ester and 0.9 mL (17 mmol) of acetonitrile in toluene (5 mL) is added dropwise to the refluxing suspension of 0.67 g (17 mmol) of sodium hydride (60% in mineral oil) in toluene (5 mL). After the addition, the reaction mixture is stirred at reflux for 3 h. After this time, the reaction mixture is cooled to room temperature and neutralized to pH ˜6-7 by adding 1M aqueous HCl solution. The aqueous layer is extracted with ethyl acetate (3×20 mL). The organic layers are combined, washed with brine (1.5 L), dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure to yield 1.69 g of 5-methoxy-4,4-dimethyl-3-oxo-pentanenitrile as a brown oil, which is used in the next step without further purification. Yield: 91%; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.1 (6H, s), 3.2 (3H, s), 3.3 (2H, s), 4.2 (2H, s).

reactant | 3-methoxy-2,2-dimethyl-propionic acid methyl ester | 12 mmol, 1.74 g | COC(C(COC)(C)C)=O | C7H14O3
reactant | acetonitrile | 17 mmol, 0.9 mL | C(C)#N | C2H3N
reactant | sodium hydride | 17 mmol, 0.67 g | [H-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-methoxy-4,4-dimethyl-3-oxo-pentanenitrile | 1.69 g, Yield: 91% | COCC(C(CC#N)=O)(C)C | C8H13NO2
